US08710245B2
(b) Synthesis of (2-bromo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine
The title compound was synthesized from 2-(5-bromothiophen-2-yl)ethanol and aminoacetaldehyde dimethylacetal according to General Procedure A.

reactant | 2-(5-bromothiophen-2-yl)ethanol | BrC1=CC=C(S1)CCO | C6H7BrOS
reactant | aminoacetaldehyde dimethylacetal | COC(CN)OC | C4H11NO2
product | (2-bromo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine | BrC1=CC=2C(OCCC2S1)CN | C8H10BrNOS
